US04772600
2-(4-Chlorophenyl)-N-(phenylmethyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
Under nitrogen bubbling, a mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.0 g, 0.014 mole) and 1,1'-carbonyldiimidazole (2.27 g, 0.014 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 3 hours. Then, under nitrogen atmosphere, benzylamine (1.58 g, 0.0147 mole) was added and the reaction was allowed to stir at room temperature overnight. The tetrahydrofuran was evaporated, to give a solid. The solid was recrystallized from isopropyl alcohol, collected by filtration, washed with cold isopropyl alcohol and water, and dried under high vacuum at 50° C. overnight to give 3.43 g (65%) of title compound, mp 200°-200.5° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.014 mole, 4.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.014 mole, 2.27 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | benzylamine | 0.0147 mole, 1.58 g | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-(phenylmethyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 3.43 g, 65% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCC1=CC=CC=C1 | C21H17ClN4O
